US09079853B2
5-chloro-1-ethylindoline-2,3-dione
Was made in an analogous fashion to 1-propylindoline-2,3-dione using commercially available 5-chloro isatin and ethyl bromide, both purchased from Fisher Scientific. 1H NMR δ 7.58 (m, 2H), 6.88 (d, 1H), 3.80 (q, 2H), 1.31 (t, 3H).

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | 5-chloro isatin | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | ethyl bromide | C(C)Br | C2H5Br
product | 5-chloro-1-ethylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CC)=O)=O | C10H8ClNO2
